US04528296
Following the procedure of Example 3, but substituting an equivalent amount of methyl 2-(2-acetylthiomethyl-propionamido)-isonicotinate, obtained as disclosed in Example 29, for methyl 2-(2-acetylthiomethyl-propionamido)-nicotinate; 2-(2-mercaptomethyl-propionamido)-isonicotinic acid is obtained; m.p. 247°-248° C., from ethanol/water.

reactant | methyl 2-(2-acetylthiomethyl-propionamido)-isonicotinate | C(C)(=O)SCC(C(=O)NC=1C=C(C(=O)OC)C=CN1)C | C13H16N2O4S
reactant | methyl 2-(2-acetylthiomethyl-propionamido)-nicotinate | C(C)(=O)SCC(C(=O)NC1=C(C(=O)OC)C=CC=N1)C | C13H16N2O4S
product | 2-(2-mercaptomethyl-propionamido)-isonicotinic acid | SCC(C(=O)NC=1C=C(C(=O)O)C=CN1)C | C10H12N2O3S
